US06589954B1
6-Methoxy-(4-benzylpiperidinyl)benzimidazole-5-carboxamide:
6-methoxy-5-benzimidazole carboxylic acid, (1 equivalent) was treated with 1.1 equivalent of EDAC.HCl and 1 equivalent of 4-benzylpiperidine in the presence of a catalytic amount of DMAP in DMF/DCM 1:1 for 3-6 hrs. The reaction mixture was then concentrated and taken up in ethyl acetate. After washing with 5% aq. Sodium carbonate and a solution of saturated sodium chloride, the organic layer was dried over anhydrous sodium sulfate and concentrated to give crude material. This crude material was purified by chromatography on silica. M+ 349, Exp. 349.

reactant | 6-methoxy-5-benzimidazole carboxylic acid | 1 equivalent | COC=1C(=CC2=C(N=CN2)C1)C(=O)O | C9H8N2O3
reactant | EDAC.HCl | 1.1 equivalent | CCN=C=NCCCN(C)C.Cl
reactant | 4-benzylpiperidine | 1 equivalent | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF DCM | CN(C)C=O.C(Cl)Cl
product | 6-Methoxy-(4-benzylpiperidinyl)benzimidazole-5-carboxamide | COC=1C(=CC2=C(N=C(N2)N2CCC(CC2)CC2=CC=CC=C2)C1)C(=O)N | C21H24N4O2
